US05039691
2-CARBOMETHOXYIMIDAZOLE
After a solution of 3.2 g (8.7 mmol.) of 1-trityl-2-carbomethoxyimidazole in 40 mL of a 5% solution of acetic acid in methanol was refluxed for 30 minutes, it was concentrated in vacuo. Recrystallization from ethanol afforded colorless needles, mp 187°-188° C.

reactant | 1-trityl-2-carbomethoxyimidazole | 8.7 mmol, 3.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=C1)C(=O)OC | C24H20N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 2-CARBOMETHOXYIMIDAZOLE | C(=O)(OC)C=1NC=CN1 | C5H6N2O2
